US05948820
(1) 2-[2-(3-Benzyloxyphenyl)ethyl]-2-methylmalonic acid diethyl ester
2-(3-Benzyloxyphenyl)ethyl iodide and 2-methylmalonic acid diethyl ester were used in the same manner as working example 52 (3) to give the subject compound.

reactant | 2-(3-Benzyloxyphenyl)ethyl iodide | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCI | C15H15IO
reactant | 2-methylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
product | 2-[2-(3-Benzyloxyphenyl)ethyl]-2-methylmalonic acid diethyl ester | C(C)OC(C(C(=O)OCC)(C)CCC1=CC(=CC=C1)OCC1=CC=CC=C1)=O | C23H28O5
